US06960609B2
N,N-Diethyl-4-[[4-(4-formyl-phenyl)-3,5-dimethyl-pyrazol-1-yl]-(3-methoxy-phenyl)-methyl]-benzamide
To a stirring solution of N,N-Diethyl-4-[(4-iodo-3,5-dimethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-methyl]-benzamide (300 mg, 0.58 mmol) in 40 mL EtOH/H20 (9:1) at room temperature was added 4-carboxybenzeneboronic acid (261 mg, 1.74 mmol), sodium carbonate (184 mg, 1.74 mmol) and tetrakistriphenylphosphine palladium (0) (200 mg, 0.174 mmol). The mixture was cooled to −78° C., de-oxygenated under reduced pressure and purged with nitrogen gas. The mixture was refluxed for 3 h, cooled to room temperature, filtered through a Celite pad and concentrated under reduce pressure. Purification of the crude material was accomplished by flash chromatography on a 2×15 cm column, eluting with 50% ethyl acetate/hexanes, collecting 8 mL fractions. The product containing fractions were collected and concentrated to give the desired product (267 mg, 93%) as a clear colorless solid. 300 MHz 1H NMR (CDCl3) δ 10.1 (s, 1H), 7.90 (d, J=8.3 Hz, 2H), 7.21-7.42 (m, 7H), 6.78-6.86 (m, 3H), 6.57 (s, 1H), 3.75 (s, 3H), 3.52 (brs, 2H), 3.27 (brs, 2H), 2.26 (s, 6H), 1.24 (brs, 3H), 1.22 (brs, 3H); MS (M+1) 496.2.

reactant | N,N-Diethyl-4-[(4-iodo-3,5-dimethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-methyl]-benzamide | 0.58 mmol, 300 mg | C(C)N(C(C1=CC=C(C=C1)C(C1=CC(=CC=C1)OC)N1N=C(C(=C1C)I)C)=O)CC | C24H28IN3O2
reactant | 4-carboxybenzeneboronic acid | 1.74 mmol, 261 mg | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | sodium carbonate | 1.74 mmol, 184 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 40 mL | CCO | C2H6O
product | N,N-Diethyl-4-[[4-(4-formyl-phenyl)-3,5-dimethyl-pyrazol-1-yl]-(3-methoxy-phenyl)-methyl]-benzamide | 267 mg, 93% | C(C)N(C(C1=CC=C(C=C1)C(C1=CC(=CC=C1)OC)N1N=C(C(=C1C)C1=CC=C(C=C1)C=O)C)=O)CC | C31H33N3O3
